US09260420B2
Synthesis of octadecanoic acid 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-2-oxo-3,4-dihydro-2H-quinolin-1-ylmethyl ester
To a solution (20 ml) of 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-1-hydroxymethyl-3,4-dihydro-1H-quinolin-2-one (640 mg, 2.066 mmol) synthesized in the same manner as in Example 1, stearic acid (587 mg, 2.062 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (395 mg, 2.062 mmol) in methylene chloride was added 4-dimethylaminopyridine (33.6 mg, 0.275 mmol), and the mixture was stirred at room temperature overnight. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. This was purified by moderate-pressure silica gel column chromatography (hexane:ethyl acetate=1:0 to 0:1) and further by basic silica gel column chromatography (hexane:ethyl acetate=1:0 to 0:1) and concentrated under reduced pressure to give the title compound (yield 649 mg, 64.5%) as a colorless oil.

reactant | 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-1-hydroxymethyl-3,4-dihydro-1H-quinolin-2-one | 2.066 mmol, 20 ml, 640 mg | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1CCC(N(C1=C2)CO)=O | C26H31N3O3S
reactant | stearic acid | 2.062 mmol, 587 mg | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.062 mmol, 395 mg | Cl.CN(CCCN=C=NCC)C
reactant | Water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.275 mmol, 33.6 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | octadecanoic acid 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-2-oxo-3,4-dihydro-2H-quinolin-1-ylmethyl ester | yield 649 mg, 64.5% | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1CCC(N(C1=C2)COC(CCCCCCCCCCCCCCCCC)=O)=O | C44H65N3O4S
